US07479575B2
a) Step 1: Synthesis of 2-(4-bromophenyl)-1-(4-chlorophenyl) ethanone (Vd)
To a 100 mL three-necked flask containing AlCl3 (4.797 g; 35.98 mmol) under N2, chlorobenzene (IVd) (36.6 mL; 359.76 mmol) was added in one portion at RT. To this suspension (4-bromo-phenyl)-acetyl chloride (IIIa) (7.0 g; 29.98 mmol) was added in one portion without cooling. Protocol and work-up was then similar with those described above. Title compound was obtained as a white powder (m=7.99 g) in a 86% yield.

reactant | AlCl3 | 35.98 mmol, 4.797 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | chlorobenzene | 359.76 mmol, 36.6 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | (4-bromo-phenyl)-acetyl chloride | 29.98 mmol, 7.0 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
product | 2-(4-bromophenyl)-1-(4-chlorophenyl) ethanone | 86% yield | BrC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)Cl | C14H10BrClO
